US03989689
The mixture of 23.0 g of 8-chloro-1-methyl-2,3,4,5-tetrahydro-1-benzazepine-2,5-dione-4-carboxylic acid methyl ester, 8.9 g of 2-aminothiazole and 360 ml of toluene is distilled for 20 hours so that after collecting 100 ml of toluene each, this amount is returned to the reaction mixture. It is finally concentrated to a volume of 150 ml, the resulting suspension cooled with ice, filtered and the residue recrystallized from chloroform-acetonitrile, to yield the 8-chloro-1-methyl-4-(2-thiazolylcarbamoyl)-2,3,4,5-tetrahydro-1-benzazepine-2,5-dione of the formula ##SPC3##

reactant | 8-chloro-1-methyl-2,3,4,5-tetrahydro-1-benzazepine-2,5-dione-4-carboxylic acid methyl ester | 23.0 g | COC(=O)C1CC(N(C2=C(C1=O)C=CC(=C2)Cl)C)=O | C13H12ClNO4
reactant | 2-aminothiazole | 8.9 g | NC=1SC=CN1 | C3H4N2S
solvent | toluene | 360 ml | C1(=CC=CC=C1)C | C7H8
product | 8-chloro-1-methyl-4-(2-thiazolylcarbamoyl)-2,3,4,5-tetrahydro-1-benzazepine-2,5-dione | ClC1=CC2=C(C(C(CC(N2C)=O)C(NC=2SC=CN2)=O)=O)C=C1 | C15H12ClN3O3S
